US05536725
Under a nitrogen atmosphere, a solution of 10.0 grams (0.049 mole) of 2-chlorophenylmethyl bromide and 13.0 grams (0.050 mole) of triphenylphosphine in about 100 mL of toluene was heated at reflux for about 18 hours. The reaction mixture was cooled, and a solid was collected by filtration. The solid was washed with toluene and dried under vacuum, yielding 22.8 grams of 2-chlorophenylmethyltriphenylphosphonium bromide, mp >250° C.

reactant | 2-chlorophenylmethyl bromide | 0.049 mole, 10.0 grams | ClC1=C(C=CC=C1)CBr | C7H6BrCl
reactant | triphenylphosphine | 0.050 mole, 13.0 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | about 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chlorophenylmethyltriphenylphosphonium bromide | 22.8 grams | [Br-].ClC1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H21ClP.BrH/c26-25-19-11-10-12-21(25)20-27(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-19H,20H2;1H/q+1;/p-1
